US09238640B2
To a mixture of 2-aminobenzamide (1.0 g, 7.35 mmol) and 4-(4-acetylpiperazin-1-yl)benzaldehyde (1.71 g, 7.35 mmol) in DMA (60 mL) was added p-TsOH (0.140 g, 0.73 mmol) and NaHSO3 (0.841 g, 8.1 mmol). The reaction mixture was heated at 150° C. for 21 hours, concentrated to half-volume, diluted with water (300 mL), extracted with CH2Cl2 (2×200 mL), washed with brine (200 mL), dried over anhydrous MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography, eluting with 100% CH2Cl2 to 100% (92:7:1 CHCl3/MeOH/concentrated NH4OH), to afford 2-(4-(4-acetylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one as a yellow solid (2.27 g, 89%).

reactant | 2-aminobenzamide | 7.35 mmol, 1.0 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | 4-(4-acetylpiperazin-1-yl)benzaldehyde | 7.35 mmol, 1.71 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C13H16N2O2
reactant | p-TsOH | 0.73 mmol, 0.140 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHSO3 | 8.1 mmol, 0.841 g | OS(=O)[O-].[Na+]
solvent | DMA | 60 mL | CC(=O)N(C)C | C4H9NO
product | 2-(4-(4-acetylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one | 2.27 g, 89% | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C20H20N4O2
